US07402595B2
6-chloro-2-(4-methanesulfonylbenzyl)-4-phenyl-3-propionyl-2H-isoquinolin-1-one
In the same manner as in Example 311, the title compound was synthesized using 6-chloro-3-(1-hydroxypropyl)-2-(4-methanesulfonylbenzyl)-4-phenyl-2H-isoquinolin-1-one. Crystals (THF-diisopropyl ether).

reactant | 6-chloro-3-(1-hydroxypropyl)-2-(4-methanesulfonylbenzyl)-4-phenyl-2H-isoquinolin-1-one | ClC=1C=C2C(=C(N(C(C2=CC1)=O)CC1=CC=C(C=C1)S(=O)(=O)C)C(CC)O)C1=CC=CC=C1 | C26H24ClNO4S
reactant | THF diisopropyl ether | C1CCOC1.C(C)(C)OC(C)C
product | 6-chloro-2-(4-methanesulfonylbenzyl)-4-phenyl-3-propionyl-2H-isoquinolin-1-one | ClC=1C=C2C(=C(N(C(C2=CC1)=O)CC1=CC=C(C=C1)S(=O)(=O)C)C(CC)=O)C1=CC=CC=C1 | C26H22ClNO4S
